US08053457B2
(4-Benzyl-4,7-diaza-spiro[2.5]oct-7-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Benzyl-4,7-diaza-spiro[2.5]octane (which prepared in analogy to a published literature procedure (WO030828859)) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+H=242.2: CtRef=3.84.

reactant | 4-Benzyl-4,7-diaza-spiro[2.5]octane | C(C1=CC=CC=C1)N1C2(CC2)CNCC1 | C13H18N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Benzyl-4,7-diaza-spiro[2.5]oct-7-yl)-acetonitrile | C(C1=CC=CC=C1)N1C2(CC2)CN(CC1)CC#N | C15H19N3
